US04916137
A mixture of 57.0 g of propiophenone in 150 ml of N,N-dimethylformamide dimethyl acetal was stirred and heated at reflux for 24 hours. Then the solvent was removed in vacuo to give a yellow oil. The oil was subjected to Kugelrohr distillation to give 69.8 g of 3-dimethylamino-2-methylacrylophenone as a yellow oil, B.P. 100° C. (0.050 mm Hg).

reactant | propiophenone | 57.0 g | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | N,N-dimethylformamide dimethyl acetal | 150 ml | COC(N(C)C)OC | C5H13NO2
product | 3-dimethylamino-2-methylacrylophenone | 69.8 g | CN(C=C(C(=O)C1=CC=CC=C1)C)C | C12H15NO
